US08877742B2
8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine
To a solution of 8-bromo-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one (500 mg, 2.082 mmol) in THF (20 mL) at RT was added borane-THF complex (1M solution in THF) (5.206 mL, 5.21 mmol). The reaction mixture was refluxed for 3 hours, after which the reaction mixture was cooled in an ice bath before the addition of a further amount of borane-THF complex (1M solution in THF) (7.290 mL, 7.29 mmol). The reaction mixture was once again refluxed overnight. The reaction mixture was cooled in an ice bath before the dropwise addition of water. The aqueous layer was then extracted with diethyl ether (3×25 mL). The organic layers were combined, passed through a hydrophobic frit and concentrated. This residue was purified on silica column eluting with ethyl acetate in cyclohexane (0-15%) to afford the title compound (400 mg). LCMS (A): m/z (M+H)+ 226/228, C10H12BrN requires 225/227 (acidic).

reactant | 8-bromo-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | 2.082 mmol, 500 mg | BrC1=CC2=C(CCCC(N2)=O)C=C1 | C10H10BrNO
reactant | borane THF | 5.21 mmol, 1M, 5.206 mL | B.C1CCOC1
reactant | borane THF | 7.29 mmol, 1M, 7.290 mL | B.C1CCOC1
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 400 mg | BrC=1C=CC2=C(NCCCC2)C1 | C10H12BrN
